US05888423
A mixture of 174.3 g of 4-(1,4-dioxaspiro[4,5]dec-8-yl)-1-(3-fluorophenyl)cyclohexanol, 1000 ml of 1,2-dichloroethane, 25 ml of ethylene glycol and 25 g of Amberlyst 15 was boiled under reflux for 22 hrs., the condensate being dried over a dropping funnel filled with 175 g of neutral aluminiumoxide. Then, the reaction mixture was cooled, filtered, washed with water and the organic phase was dried over sodium sulphate. Subsequent chromatography on 1000 g of silica gel with hexane/ethyl acetate (90:1) gave 124.2 g of 4-(1,4-dioxaspiro[4,5]dec-8-yl)-1-(3-fluorophenyl)-cyclohexene as colorless crystals. M.p. of a sample recrystallized from methylene chloride/hexane: 133.7°-135.3° C.

reactant | 4-(1,4-dioxaspiro[4,5]dec-8-yl)-1-(3-fluorophenyl)cyclohexanol | 174.3 g | O1CCOC12CCC(CC2)C2CCC(CC2)(O)C2=CC(=CC=C2)F | C20H27FO3
reactant | 1,2-dichloroethane | 1000 ml | ClCCCl | C2H4Cl2
solvent | ethylene glycol | 25 ml | C(CO)O | C2H6O2
product | 4-(1,4-dioxaspiro[4,5]dec-8-yl)-1-(3-fluorophenyl)-cyclohexene | 124.2 g | O1CCOC12CCC(CC2)C2CC=C(CC2)C2=CC(=CC=C2)F | C20H25FO2
